Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
admit for heart failure optimization. 
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
This ___ year old gentleman with gastroesophageal cancer s/p 
chemo and 5 weeks of daily radiation and extensive 
reconstructive GI surgery in ___ of this year with multiple 
complications and a prolonged intubation. He went into a. fib on 
the operating table during his esophageal cancer resection, 
placed on warfarin. His cardiologist got an echo which showed 
severe dilated cardiomyopathy with LVEF of 25%. Cathed ___ 
and found to have clean coronaries and admitted to ___ service 
for medical management of heart failure. 

 
Past Medical History:
CAD  
HTN
HLD
Bipolar disorder
Esophageal cancer

PAST SURGICAL HISTORY
None

 
Social History:
___
Family History:
Father: ___ at age ___, died of MI at age ___

 
Physical Exam:
Admission:
VS: 97.8 127/75 24 94RA I/O: ___ Weight: 119.6kg  
GENERAL: NAD. Oriented x3. Mood, affect appropriate. 
Cooperative.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple without JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. irreguarly irregular, normal S1, S2. No m/r/g. No thrills, 
lifts. No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. bibasilar crackles ___BDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/ ___ edema in bilateral lower extremities. 
No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. 

Discharge:
PHYSICAL EXAM:
VS: 98 64-100 Avg ___ 130/87 ___ 16x @98%RA
GENERAL: NAD. Mood, affect appropriate. Cooperative.  
NECK: Supple without JVD.  
CARDIAC: Irregularly irregular rhythm, rate controlled, no m/r/g 
 
LUNGS: faint bibasilar crackles
ABDOMEN: Soft, bowel sounds normoactive  
EXTREMITIES: trace edema in BLE  

 
Pertinent Results:
___ 09:45PM   GLUCOSE-106* UREA N-15 CREAT-0.8 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-25 ANION GAP-14
___ 09:45PM   estGFR-Using this
___ 09:45PM   CALCIUM-9.5 PHOSPHATE-4.2 MAGNESIUM-1.9
___ 09:45PM   TSH-2.4
___ 09:45PM   WBC-6.6 RBC-4.93# HGB-13.1*# HCT-43.1# MCV-87 
MCH-26.5* MCHC-30.3* RDW-16.1*
___ 09:45PM   ___ PTT-37.2* ___
 
Brief Hospital Course:
ASSESSMENT AND PLAN - ___ year old found to have Non-ischemic 
dilated cardiomyopathy with EF of 25% and clean cath admitted 
for medical management of CHF. 

#sCHF  - ___ to dilated, non-ischemic cardiomyopathy. Cause of 
cardiomyopathy unknonw.  Pt was diursed PRN originally with IV 
Lasix 40 mg with good output and a total of nearly 10 lb weight 
loss from excess fluid. Pt was transitioned to 20 PO lasix daily 
to maintain his dry weight. Pt was on CCB at home for rate 
control of A fib; however, given new diagnosis of heart failure, 
this medication was stopped. Rate control was achived with 
Metoprolol (pt discharged on 200 of XL) and digoxin (pt loaded 
over two doses) and discharged on 0.125 mg daily. During this 
admission, we decreased lisinopril from 20 to 10 d/t 
interactions with Lithium.  
 
#A. fib: Started Warfarin 5 mg with Heparin gtt bridge d/t h/of 
active cancer. Pt had two therapeutic INRs and heparin was 
D/Ced.  

# Bipolar diorder
-Continued 900 mg LITHIUM CARBONATE 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem 120 mg PO Q8H 
2. Lithium Oral Solution 900 mg PO DAILY 
3. Metoprolol Tartrate 50 mg PO Q8H 
4. Lisinopril 5 mg PO DAILY 
5. Ondansetron 4 mg PO PRN nausea 
6. Warfarin 5 mg PO DAILY16 
7. Aspirin 81 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Ondansetron 4 mg PO PRN nausea 
4. Warfarin 5 mg PO DAILY16 
5. Digoxin 0.125 mg PO DAILY 
RX *digoxin [Digox] 125 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
6. Lithium Oral Solution 900 mg PO DAILY 
7. Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Metoprolol Succinate XL 200 mg PO DAILY 
RX *metoprolol succinate 200 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
9. Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: heart failure; severe nonischemic CM
Secondary diagnosis: atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you here at ___. You came in 
with worsening shortness of breath and underwent cardiac 
catheterization. This showed that you have no blockages in your 
heart vessels. As you know, your heart is not pumping as well as 
it should and this may be due to very high heart rates that you 
have had in the last few months. We have controlled your heart 
rate here with metoprolol and digoxin. We have also taken off 
the extra fluid you have collected in your body from poor heart 
function by using a water pill called lasix. You should continue 
to take this medication when you go home. Please notify your PCP 
if you have worsening shortness of breath or fluid collection in 
your legs. Your weight was 114.8kg (211.43lbs) on discharge. To 
prevent blood clots, you should take coumadin. Please have your 
INR checked on ___. Please notify your doctor if you gain 
more than 3 lbs because this means you may have to have your 
medications readjusted.

We wish you all the best in your recovery.

Sincerely,

Your ___ team
 
Followup Instructions:
___